US05434150
2-(4-Benzyloxycarbonylamidino-phenyl)-1-(4-phenyl-butyl)-5-[(2-pivaloyloxymethyloxycarbonyl-ethyl)-aminocarbonyl]-benzimidazole
Prepared by reacting 2-(4-benzyloxycarbonylamidino-phenyl)-5-[(2-carboxy-ethyl)-aminocarbonyl]-1-(4-phenyl-butyl)-benzimidazole with pivaloyloxymethylchloride in dimethylsulphoxide in the presence of potassium carbonate with the addition of potassium iodide at ambient temperature.

reactant | 2-(4-benzyloxycarbonylamidino-phenyl)-5-[(2-carboxy-ethyl)-aminocarbonyl]-1-(4-phenyl-butyl)-benzimidazole | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)C1=NC2=C(N1CCCCC1=CC=CC=C1)C=CC(=C2)C(=O)NCCC(=O)O | C36H35N5O5
reactant | pivaloyloxymethylchloride | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 2-(4-Benzyloxycarbonylamidino-phenyl)-1-(4-phenyl-butyl)-5-[(2-pivaloyloxymethyloxycarbonyl-ethyl)-aminocarbonyl]-benzimidazole | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)C1=NC2=C(N1CCCCC1=CC=CC=C1)C=CC(=C2)C(=O)NCCC(=O)OCOC(C(C)(C)C)=O | C42H45N5O7
